US06545008B1
Example 2: Preparation of 5,6-dimethyl-2-(2,4-difluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
To the solution of 5,6-dimethyl-2-chloro4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine (0.8 g, 2.78 mmol) in dimethyl sulfoxide (1.5 ml), was added 2,4-difluoroaniline (0.5 ml, 4.9 mmol). The reaction mixture was heated to 120° C., stirred for 2 hours, and cooled to room temperature. The resulting solution was diluted with ethyl acetate, washed with water and sodium hydroxide solution, and dried over anhydrous magnesium sulfate. The organic layer was concentrated in vacuo. The resulting residue was subjected to silica gel column chromatography (eluent: ethyl acetate/dichloromethane =⅕), and then treated with ethyl ether solution saturated with hydrochloric acid to afford 0.2 g (17%) of the titled compound.

reactant | 5,6-dimethyl-2-chloro4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 2.78 mmol, 0.8 g | CC=1C(=NC(=NC1C)Cl)N1C(C2=CC=CC=C2CC1)C | C16H18ClN3
reactant | 2,4-difluoroaniline | 4.9 mmol, 0.5 ml | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | dimethyl sulfoxide | 1.5 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,6-dimethyl-2-(2,4-difluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.2 g, 17% | Cl.CC=1C(=NC(=NC1C)NC1=C(C=C(C=C1)F)F)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C22H22F2N4.ClH/c1-13-14(2)25-22(26-20-9-8-17(23)12-19(20)24)27-21(13)28-11-10-16-6-4-5-7-18(16)15(28)3;/h4-9,12,15H,10-11H2,1-3H3,(H,25,26,27);1H
